US04031221
By following the manipulative procedure described in Example 2(d), 5.5 g of lithium aluminum hydride in 160 ml. of tetrahydrofuran and 12.0 g of 1-(2-methylindol-3-ylglyoxyloyl)-4-(p-fluorophenoxy)piperidine in 120 ml. of tetrahydrofuran are reacted to produce a white solid. The solid is recrystallized from an ethanol and water mixture (charcoal treatment) to give a white powder of 3-{2-[4-(p-fluorophenoxy)piperidyl]ethyl}-2-methylindole, m.p. 97°-99° C.

reactant | lithium aluminum hydride | 5.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-(2-methylindol-3-ylglyoxyloyl)-4-(p-fluorophenoxy)piperidine | 12.0 g | CC=1NC2=CC=CC=C2C1C(C(=O)N1CCC(CC1)OC1=CC=C(C=C1)F)=O | C22H21FN2O3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-{2-[4-(p-fluorophenoxy)piperidyl]ethyl}-2-methylindole | FC1=CC=C(OC2CCN(CC2)CCC2=C(NC3=CC=CC=C23)C)C=C1 | C22H25FN2O
